US04318913
[3-[3-(1-Piperidinylmethyl)phenoxy]propyl]isothiocyanate
A solution of carbon disulphide (3.3 ml) in acetone (8 ml) was added dropwise to a solution of 3-[3-(1-piperidinylmethyl)phenoxy]propanamine (12.4 g) in acetone (30 ml) over a 15 minute period, between -5° and -10° C. The solution was cooled to -14° C. and mercury (II) chloride (13.6 g) in acetone (30 ml) was added, during 45 minutes. Triethylamine (16 ml) was added at 0° C. during 15 minutes, and the mixture was heated at reflux for 45 minutes. The resulting suspension was purified by filtration and the filtrate evaporated in vacuo. The residue was purified by column chromatography using methanol as eluant to give the title compound (6 g) as an amber oil. TLC silica/cmethanol Rf 0.4.

reactant | carbon disulphide | 3.3 ml | C(=S)=S | CS2
reactant | 3-[3-(1-piperidinylmethyl)phenoxy]propanamine | 12.4 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | Triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
catalyst | mercury (II) chloride | 13.6 g | [Hg](Cl)Cl
product | [3-[3-(1-Piperidinylmethyl)phenoxy]propyl]isothiocyanate | 6 g | N1(CCCCC1)CC=1C=C(OCCCN=C=S)C=CC1 | C16H22N2OS
